US06274588B1
To a solution of 0.50 g (1.01 mmol) in 2-carbamoylmethyl-4-phenyl-pyrimidine-5-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide and 0.17 ml pyridine in 10 ml dioxane 0.15 ml (1.06 mmol) trifluoraceticanhydrid were added and the resulting reaction mixture was stirred for 1 hr. at 50°. The reaction mixture was poured on Ice/H2O and extracted three times with 50 ml CH2Cl2. The combined organic layers were dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/MeOH 30:1) to give 0.25 g (51%) 2-cyanomethyl-4-phenyl-pyrimidine-5-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide as a colorless solid, m.p. 114-116°.

reactant | pyridine | 0.17 ml | N1=CC=CC=C1 | C5H5N
reactant | dioxane | 1.06 mmol, 10 ml | O1CCOCC1 | C4H8O2
reactant | 2-carbamoylmethyl-4-phenyl-pyrimidine-5-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | FC(C=1C=C(CN(C(=O)C=2C(=NC(=NC2)CC(N)=O)C2=CC=CC=C2)C)C=C(C1)C(F)(F)F)(F)F | C23H18F6N4O2
product | 2-cyanomethyl-4-phenyl-pyrimidine-5-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 0.25 g, 51% | FC(C=1C=C(CN(C(=O)C=2C(=NC(=NC2)CC#N)C2=CC=CC=C2)C)C=C(C1)C(F)(F)F)(F)F | C23H16F6N4O
